US03997557
20 g (0.1 mole) of phenacyl bromide and 65 ml. of toluene are added dropwise during 30 minutes to a refluxing stirred solution of 20 g (0.1 mole) of 1-(3,4-dihydro-2-napthyl)pyrrolidine and 50 ml. of toluene. The mixture is heated under reflux for 3 hours, diluted with 50 ml. of water, refluxed for 4 hours and cooled. The layers separate, the aqueous phase is extracted with benzene, the organic solution is dried and concentrated to an oil. The oil is crystallized from a 30°-60° petroleum ether-ether mixture to give 1-phenacyl-2-tetralone as tan crystals, m.p. 48°-52° C.

reactant | phenacyl bromide | 0.1 mole, 20 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 1-(3,4-dihydro-2-napthyl)pyrrolidine | 0.1 mole, 20 g | C1=C(CCC2=CC=CC=C12)N1CCCC1 | C14H17N
reactant | water | O | H2O
product | 1-phenacyl-2-tetralone | C(C(=O)C1=CC=CC=C1)C1C(CCC2=CC=CC=C12)=O | C18H16O2
